US08703805B2
Methyl 5-(5-bromopyridin-2-yl)-1-(2-chlorophenyl)-1H-pyrazole-3-carboxylate (200 mg, 0.51 mmol), 3-(methylsulfonyl)phenylboronic acid (120 mg, 0.60 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (11) dichloromethane adduct (20 mg, 24 μmol), and K2CO3 (0.45 mL of a 3.5M aqueous solution, 1.6 mmol) were combined in DME (2.5 mL) in a microwave reaction vessel. The dark mixture was heated at 120° C. for 5 minutes. The reaction mixture was diluted with EtOAc and H2O. The aqueous layer was removed and extracted with additional EtOAc. The combined organics were dried over Na2SO4, treated with some decolorizing carbon and filtered through a pad of Celite. Concentration of the filtrates under reduced pressure and purification by flash column chromatography eluting with 0% to 50% MeCN/CH2Cl2 afforded methyl 1-(2-chlorophenyl)-5-(5-(3-(methylsulfonyl)phenyl)pyridin-2-yl)-1H-pyrazole-3-carboxylate as a pale yellow foam. This material was carried on to the subsequent step. MS(ES): 468 [M+H]+.

reactant | Methyl 5-(5-bromopyridin-2-yl)-1-(2-chlorophenyl)-1H-pyrazole-3-carboxylate | 0.51 mmol, 200 mg | BrC=1C=CC(=NC1)C1=CC(=NN1C1=C(C=CC=C1)Cl)C(=O)OC | C16H11BrClN3O2
reactant | 3-(methylsulfonyl)phenylboronic acid | 0.60 mmol, 120 mg | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 2.5 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 24 μmol, 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 1-(2-chlorophenyl)-5-(5-(3-(methylsulfonyl)phenyl)pyridin-2-yl)-1H-pyrazole-3-carboxylate | ClC1=C(C=CC=C1)N1N=C(C=C1C1=NC=C(C=C1)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)OC | C23H18ClN3O4S
